US05698560
3-[3-(Diethylamino)propoxy]benzylamine
According to a similar manner as that in Reference Example 78, 3-[3-(diethylamino)propoxy]benzonitrile obtained above was reduced by lithium aluminium hydride to give the title compound (89%). This compound was used in the subsequent reaction without further purification.

reactant | 3-[3-(diethylamino)propoxy]benzonitrile | C(C)N(CCCOC=1C=C(C#N)C=CC1)CC | C14H20N2O
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 3-[3-(Diethylamino)propoxy]benzylamine | 89% | C(C)N(CCCOC=1C=C(CN)C=CC1)CC | C14H24N2O
